US04493796
Methylene-didemnin A (see Chart I for structure)
The 1H NMR spectrum (360 MHz, CDCl3) when compared to that of didemnin A showed the absence of an amide proton signal at δ7.8 previously assigned to threonine. The α-proton signal of threonine, a doublet of doublets at δ4.9 in didemnin A, was present as a doublet at δ4.9 in the spectrum of methylene didemnin A. The N-methyl and α-proton resonances assigned to MeLeu were both shifted slightly upfield. These data, and the presence of two new proton signals (δ4.89, d, 1H and δ2.93, d, 1H) for the new methylene unit, are all consistent with the structure of methylene didemnin A.

reactant | threonine | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | methylene didemnin A | CC[C@H](C)[C@H]1[C@H](CC(=O)O[C@H](C(=O)[C@@H](C(=O)N[C@H](C(=O)N2CCC[C@H]2C(=O)N([C@H](C(=O)O[C@H]([C@@H](C(=O)N1)N3CN([C@@H](C3=O)CC(C)C)C)C)CC=4C=CC(=CC4)OC)C)CC(C)C)C)C(C)C)O | C50H78N6O12
reactant | MeLeu | N([C@@H](CC(C)C)C(=O)O)C | C7H15NO2
reactant | didemnin A | CC[C@H](C)[C@@H]1[C@H](CC(=O)O[C@H](C(=O)[C@@H](C(=O)N[C@H](C(=O)N2CCC[C@H]2C(=O)N([C@H](C(=O)O[C@@H]([C@@H](C(=O)N1)NC(=O)[C@@H](CC(C)C)NC)C)CC=3C=CC(=CC3)OC)C)CC(C)C)C)C(C)C)O | C49H78N6O12
product | Methylene-didemnin A | CC[C@H](C)[C@H]1[C@H](CC(=O)O[C@H](C(=O)[C@H](C(=O)N[C@H](C(=O)N2CCC[C@H]2C(=O)N([C@H](C(=O)O[C@@H]([C@@H](C(=O)N1)NN3CN[C@H](C3=O)CC(C)C)C)CC4=CC=C(C=C4)OC)C)CC(C)C)C)C(C)C)O | C49H77N7O12
